US07906645B2
N-(3,4-Dichlorophenyl)-4-(pyrrolidin-3-ylmethyl)piperazine-1-carboxamide
tert-Butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]pyrrolidine-1-carboxylate (440 mg) was stirred in a mixture of trifluoroacetic acid (5 ml) and dichloromethane (10 ml) for one hour at room temperature. The reaction mixture was concentrated in vacuo to give the title compound as a trifluoro acetate salt (350 mg).

reactant | tert-Butyl 3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]pyrrolidine-1-carboxylate | 440 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CC1CN(CC1)C(=O)OC(C)(C)C | C21H30Cl2N4O3
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3,4-Dichlorophenyl)-4-(pyrrolidin-3-ylmethyl)piperazine-1-carboxamide | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)CC1CNCC1 | C16H22Cl2N4O
